US06310070B1
An amidation reaction and post-treatment were carried out according to the conditions of Example 1, using 1.52 g (7 mmol) of 4-amino-1-benzyl-5-imidazolecarboxamide prepared in Reference Example 2 and 4-methoxy benzoyl chloride separately prepared according to a conventional method, instead of benzoyl chloride, to obtain a crude amide product. The crude amide product was purified by suspension in hot methanol to obtain 1.31 g of 4-(4-methoxybenzoylamino)-1-benzyl-5-imidazolecarboxamide (yield 53%).

reactant | 4-amino-1-benzyl-5-imidazolecarboxamide | 7 mmol, 1.52 g | NC=1N=CN(C1C(=O)N)CC1=CC=CC=C1 | C11H12N4O
reactant | 4-methoxy benzoyl chloride | COC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO2
reactant | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
product | 4-(4-methoxybenzoylamino)-1-benzyl-5-imidazolecarboxamide | 1.31 g, yield 53% | COC1=CC=C(C(=O)NC=2N=CN(C2C(=O)N)CC2=CC=CC=C2)C=C1 | C19H18N4O3
